US06391874B1
6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one
6-Cyanoquinazolin-4-one (0.5 g) in dimethylformamide (5 ml) was treated with ammonium chloride (0.33 g) and sodium azide (0.38 g) and heated at 100° C. under nitrogen for 45 minutes. The resulting mixture was cooled, diluted with ethyl acetate and filtered. The filter cake was washed with dimethylformamide and ethyl acetate to give the title compound (0.56 g) as a cream solid; δH [2H6]DMSO 13.00(1H,bs), 8.70(1H,d), 8.40(1H,dd), 8.38(1H,bs), 8.05(1H,s), 7.68(1H,d); m/z (M−1+) 213.

reactant | 6-Cyanoquinazolin-4-one | 0.5 g | C(#N)C=1C=C2C(NC=NC2=CC1)=O | C9H5N3O
reactant | ammonium chloride | 0.33 g | [Cl-].[NH4+]
reactant | sodium azide | 0.38 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one | 0.56 g | N1N=NN=C1C=1C=C2C(NC=NC2=CC1)=O | C9H6N6O
